US07705028B2
7b) 6-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylic acid
A solution of methyl 6-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate (0.035 g, 0.061 mmol) in tetrahydrofuran (0.6 mL) was placed in a microwave reaction tube. Methanol (0.3 mL) was added followed by 1N sodium hydroxide (0.092 mL, 0.092 mmol). The tube was sealed and heated in a microwave reactor to 100° C. for 600 seconds. The solution was neutralized and concentrated. Water was added and the mixture was filtered. The resulting solid was dried in a vacuum oven at 45° C. with P2O5 to yield the title compound (0.027 g, 77.1%) 1H NMR (DMSO-d6): δ 13.03 (s, 1H), 8.58 (s, 1H), 8.24 (s, 1H), 8.15 (d, J=9 Hz, 1H), 8.03 (d, J=9 Hz, 1H), 7.96 (dd, J=2, 9 Hz, 1H), 7.90 (dd, J=2, 9 Hz, 1H), 7.81 (d, J=9, 2H), 7.42 (d, J=8 Hz, 2H), 7.25 (m, 1H), 7.14 (d, J=9 Hz, 2H), 4.98 (s, 2H), 3.35 (septet, J=7 Hz, overlapping H2O, 1H), 3.24-3.20 (m, 2H), 2.89-2.85 (m, 2H), 1.25 (d, J=7 Hz, 6H). HRMS C32H27NO4Cl2 m/z 560.1395 (M+H)+cal; 560.1409 (M+H)+Obs.

reactant | methyl 6-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylate | 0.061 mmol, 0.035 g | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC)C(C)C | C33H29Cl2NO4
reactant | Methanol | 0.3 mL | CO | CH4O
reactant | sodium hydroxide | 0.092 mmol, 1N, 0.092 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 0.6 mL | O1CCCC1 | C4H8O
product | 6-[4-({[3-[2-(2,6-dichlorophenyl)ethyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-naphthalenecarboxylic acid | 0.027 g, 77.1% | ClC1=C(C(=CC=C1)Cl)CCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O)C(C)C | C32H27Cl2NO4
